US07151118B2
N-(6-Methyl-4′-{[2-(4-methylpiperazin-1-ylmethyl)anilino]carbonyl}-1,1′-biphenyl-3-yl)-3-furamide
5′-(3-Furoylamino)-2′-methyl-1,1′-biphenyl-4-carboxylic acid (50 mg, 0.156 mmol), 2-(4-methylpiperazin-1-ylmethyl)aniline (32.0 mg, 0.156 mmol), HATU (59.2 mg, 0.156 mmol), HOBT (21 mg, 0.156 mmol) and DIPEA (27 μl, 0.156 mmol) in DMF (2 ml) were stirred at room temperature for 18 h. The reaction was diluted with ethyl acetate (150 ml), washed with water (2×30 ml) and dried (magnesium sulphate). The solvent was evaporated under vacuum and the residue chromatographed on a silica flash column eluting with DCM/methanol/triethylamine (96:2:2). Concentration of the product fractions under vacuum N-(6-methyl-4′-{[2-(4-methylpiperazin-1-ylmethyl)anilino]carbonyl}-1,1′-biphenyl-3-yl)-3-furamide (63 mg, 79%). NMR; δH [2H6]-DMSO includes 11.56,(1H, s), 9.94,(1H, s), 8.36–8.34,(2H, m), 8.02,(2H, d), 7.78,(1H, t), 7.68,(1H, d), 7.54,(2H, d), 7.35–7.25,(3H, m), 7.06,(1H, m), 6.98,(1H, m), 3.73,(2H, s), 2.22,(3H, s), 2.11,(3H, s). LCMS: retention time 2.60 min, MH+509.

reactant | 5′-(3-Furoylamino)-2′-methyl-1,1′-biphenyl-4-carboxylic acid | 0.156 mmol, 50 mg | O1C=C(C=C1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)C | C19H15NO4
reactant | 2-(4-methylpiperazin-1-ylmethyl)aniline | 0.156 mmol, 32.0 mg | CN1CCN(CC1)CC1=C(N)C=CC=C1 | C12H19N3
reactant | HATU | 0.156 mmol, 59.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.156 mmol, 21 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.156 mmol, 27 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-(6-Methyl-4′-{[2-(4-methylpiperazin-1-ylmethyl)anilino]carbonyl}-1,1′-biphenyl-3-yl)-3-furamide | CC1=CC=C(C=C1C1=CC=C(C=C1)C(=O)NC1=C(C=CC=C1)CN1CCN(CC1)C)NC(=O)C1=COC=C1 | C31H32N4O3
